US04935430
(b) 4-Chloro-2,6-dimethyl-3-nitropyridine
By the method of Yakugaku Zasshi, 87, 387 (1967), 2,6-dimethyl-3-nitro-4-pyridone (11.23 g, 66.8 mmol) and phosphorus oxychloride (57 ml) were heated together at reflux for 11/2 hours. The excess reagent was removed under reduced pressure, and the residue dissolved in dichloromethane (150 ml). This solution was treated with dilute aqueous sodium bicarbonate until the aqueous layer was at pH7, and then the organic phase was separated, dried (MgSO4) and concentrated under reduced pressure to give a pale yellow solid, (9.8 g, 79%). Caution: this compound is believed to be a powerful skin irritant.

reactant | 2,6-dimethyl-3-nitro-4-pyridone | 66.8 mmol, 11.23 g | CC1=NC(=CC(C1[N+](=O)[O-])=O)C | C7H8N2O3
reactant | phosphorus oxychloride | 57 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2,6-dimethyl-3-nitropyridine | ClC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C7H7ClN2O2
